US07678794B2
Synthesis of 4-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-N-[3-(2H-tetrazol-5-yl)-phenyl]-benzenesulfonamide
Combine 4-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-N-(4-cyano-phenyl)-benzenesulfonamide (1.44 g, 3.10 mmol), sodium azide (2.02 g, 31.0 mmol) and triethyl ammonium chloride (4.27 g, 31.0 mmol) in toluene (10.3 mL) and heat to reflux for 2 hours. Cool to ambient temperature and add 1N hydrochloric acid (20 mL) and ethyl acetate (20 mL). Extract the aqueous phase with ethyl acetate (2×20 mL), dry (sodium sulfate) and condense under reduced pressure. Sonicate resulting red residue in diethyl ether for 1 hour, collect the title compound by filtration as a white solid (831 mg, 1.64 mmol): 1H NMR (DMSO-d6) δ 0.82 (t, 3H), 1.45 (m, 2H), 2.57 (m, 5H), 5.30 (s, 2H), 6.62 (d, 1H), 7.30 (m, 1H), 7.45 (t, 1H), 7.60 (m, 2H), 7.67 (m, 2H), 7.78 (d, 1H), 7.85 (m, 3H), 10.65 (s, 1H), 12.82 (s, 1H) tetrazole H not observed; MS (m/z): 506 (M−1). The following compounds are prepared essentially by the method of Example 8.

reactant | 4-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-N-(4-cyano-phenyl)-benzenesulfonamide | 3.10 mmol, 1.44 g | C(C)(=O)C1=C(C(=C(OCC2=CC=C(C=C2)S(=O)(=O)NC2=CC=C(C=C2)C#N)C=C1)CCC)O | C25H24N2O5S
reactant | sodium azide | 31.0 mmol, 2.02 g | [N-]=[N+]=[N-].[Na+]
reactant | triethyl ammonium chloride | 31.0 mmol, 4.27 g | [Cl-].C(C)[NH+](CC)CC
reactant | hydrochloric acid | 1N, 20 mL | Cl | ClH
reactant | tetrazole | N1N=NN=C1 | CH2N4
solvent | toluene | 10.3 mL | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 4-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-N-[3-(2H-tetrazol-5-yl)-phenyl]-benzenesulfonamide | C(C)(=O)C1=C(C(=C(OCC2=CC=C(C=C2)S(=O)(=O)NC2=CC(=CC=C2)C=2N=NNN2)C=C1)CCC)O | C25H25N5O5S
